US05264454
To an ice-cooled mixture of 5-hydroxyindan (13.4 g), triethylamine (14.0 ml) and dichloromethane (150 ml) was added 2-methylbenzoyl chloride (15.4 ml) dropwise with constant stirring. The mixture was further stirred under ice-cooling for one hour, after which it was washed with water and dried (MgSO4). The solvent was then distilled off to give 5-(2-methylbenzoyloxy)indan as oil in quantitative yield.

reactant | 5-hydroxyindan | 13.4 g | OC=1C=C2CCCC2=CC1 | C9H10O
reactant | triethylamine | 14.0 ml | C(C)N(CC)CC | C6H15N
reactant | 2-methylbenzoyl chloride | 15.4 ml | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 5-(2-methylbenzoyloxy)indan | quantitative yield | CC1=C(C(=O)OC=2C=C3CCCC3=CC2)C=CC=C1 | C17H16O2
